US06514968B1
9-Benzyl-4-[2-(1-piperazinyl)ethoxy]-9H-carbazole
A mixture of tert-Butyl 4-{2-[(9-Benzyl-9H-carbazol-4-yl)oxy]ethyl}-1-piperazinecarboxylate (0.0450 g, 0.0927 mmol), trifluoroacetic acid (2.5 mL), and CH2Cl2 (2.5 mL) is stirred at room temperature for 1 h. Trifluoroacetic acid and CH2Cl2 are then removed in vacuo and the residue is partitioned between CH2Cl2 and aq. sodium bicarbonate. The organic layers are dried over sodium sulfate and taken to dryness to give 0.0326 g (91%) of the title compound; IR (drift) 2935, 2821, 1584, 1456, 1353, 1342, 1332, 1271, 1245, 1154, 1145, 1112, 783, 750, 715 cm−1; 1H NMR (CDCl3) δ2.70, 2.95, 3.04, 4.41, 5.50, 6.69, 6.99, 7.12, 7.2-7.4, 8.39. Anal. Calcd for C25H27N3O: C, 77.89; H, 7.06; N, 10.90. Found: C, 76.35; H, 7.20; N, 10.30.

reactant | tert-Butyl 4-{2-[(9-Benzyl-9H-carbazol-4-yl)oxy]ethyl}-1-piperazinecarboxylate | 0.0927 mmol, 0.0450 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)OCCN1CCN(CC1)C(=O)OC(C)(C)C | C30H35N3O3
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 9-Benzyl-4-[2-(1-piperazinyl)ethoxy]-9H-carbazole | 0.0326 g, 91% | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)OCCN1CCNCC1 | C25H27N3O
